US07713994B2
6-Bromo-4-[(3-hydroxy-4-propoxy-benzylamino)-methylene]-7-methoxy-4H-isoquinoline-1,3-dione
A mixture of 5-Aminomethyl-2-propoxy-phenol hydrochloride (109 mg, 0.50 mmole), 4 mL of N,N-dimethylformamide and triethylamine (75 μL, x mmole) were stirred for 15 minutes. Then (4E)-6-bromo-7-methoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (156 mg, 0.50 mmole) is added and the reaction mixture stirred for one hour. The product is isolated as before, to give an off-white solid, 119 mg, (51%), mp 212-214° C. dec; MS (ESI): m/z 459.1, 461.2 (M−H).

reactant | 5-Aminomethyl-2-propoxy-phenol hydrochloride | 0.50 mmole, 109 mg | Cl.NCC=1C=CC(=C(C1)O)OCCC
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
reactant | (4E)-6-bromo-7-methoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.50 mmole, 156 mg | BrC=1C=C2\C(\C(NC(C2=CC1OC)=O)=O)=C/OC | C12H10BrNO4
solvent | triethylamine | 75 μL | C(C)N(CC)CC | C6H15N
product | 6-Bromo-4-[(3-hydroxy-4-propoxy-benzylamino)-methylene]-7-methoxy-4H-isoquinoline-1,3-dione | BrC=1C=C2C(C(NC(C2=CC1OC)=O)=O)=CNCC1=CC(=C(C=C1)OCCC)O | C21H21BrN2O5
